US07585878B2
Palladium/carbon was added to an ethanol solution of [2,4-dinitro-6-(trifluoromethyl)phenyl]malonic acid dibenzyl ester and the reaction was carried out under a hydrogen atmosphere to obtain 6-amino-4-(trifluoromethyl)-1,3-dihydro-2H-indol-2-one.

reactant | [2,4-dinitro-6-(trifluoromethyl)phenyl]malonic acid dibenzyl ester | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)C1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-])=O | C24H17F3N2O8
catalyst | Palladium/carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-4-(trifluoromethyl)-1,3-dihydro-2H-indol-2-one | NC1=CC(=C2CC(NC2=C1)=O)C(F)(F)F | C9H7F3N2O
